US09359352B2
Synthesis of 7-(3-(4-isopropylpiperazin-1-yl)azetidin-1-yl)-1,5-naphthyridin-2(1H)-one (C-9)
1-(4-methoxybenzyl)-7-(3-(4-isopropylpiperazin-1-yl)azetidin-1-yl)-1,5-naphthyridin-2(1H)-one (C-8) (5.6 g, 12.5 mmol, 1.0 eq) was dissolved in TFA (100 mL) and the resulting mixture was stirred at reflux for 16 h. The reaction was complete based on TLC analysis. The mixture was cooled to RT and concentrated in vacuo to remove TFA. The resulting suspension was diluted with water (200 mL) and neutralized with sodium carbonate to adjust the pH value to 8-9 while keeping the temperature below 0° C. The resulting mixture was stirred at RT for 30 min. The solid was collected by filtration, rinsed with water (2×50 mL) and dried in vacuo to afford the desired product 7-(3-(4-isopropylpiperazin-1-yl)azetidin-1-yl)-1,5-naphthyridin-2(1H)-one (C-9) (3.91 g, 95.7% yield) as a white solid. ESI-MS m/z: 328.2 [M+H]+.

reactant | 1-(4-methoxybenzyl)-7-(3-(4-isopropylpiperazin-1-yl)azetidin-1-yl)-1,5-naphthyridin-2(1H)-one | 12.5 mmol, 5.6 g, 1.0 eq | COC1=CC=C(CN2C(C=CC3=NC=C(C=C23)N2CC(C2)N2CCN(CC2)C(C)C)=O)C=C1 | C26H33N5O2
solvent | TFA | 100 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 7-(3-(4-isopropylpiperazin-1-yl)azetidin-1-yl)-1,5-naphthyridin-2(1H)-one | 3.91 g, 95.7% yield | C(C)(C)N1CCN(CC1)C1CN(C1)C1=CN=C2C=CC(NC2=C1)=O | C18H25N5O
